US06727264B1
7-(2-NAPHTHYL)-1H-INDOLE:
Prepared by Procedure I and Scheme T using 7-bromo-1H-indole and 2-naphthylboronic acid: ESMS m/e: 244.0 (M+H)+.

reactant | 7-bromo-1H-indole | BrC=1C=CC=C2C=CNC12 | C8H6BrN
reactant | 2-naphthylboronic acid | C1=C(C=CC2=CC=CC=C12)B(O)O | C10H9BO2
product | 7-(2-NAPHTHYL)-1H-INDOLE | C1=C(C=CC2=CC=CC=C12)C=1C=CC=C2C=CNC12 | C18H13N
